#!/usr/bin/ngspice

.MODEL NE5532 OPA (
+ LEVEL=3 
+ A=100K 
+ GBW=10MEG 
+ IBIAS=200n 
+ IOFF=10n 
+ IOSC=38m
+ PD=100m 
+ ROUTAC=50 
+ ROUTDC=75 
+ SRN=9MEG
+ SRP=9MEG 
+ VNS=-18 
+ VPS=18
+ VOFF=500u 
)

.title Estagio de Ganho

R3 ic1+ 0 47k

XA ic1+ ic1a- ic1ao NE5532 
RB ic1a- 0     910
R5 ic1ao  ic1a- 2k2
C3 ic1ao  ic1a- 33p
R8 ic1ao  ic2a+ 10

XB ic1+ ic1b- ic1bo NE5532 
R6 ic1b- 0     910
R7 ic1bo  ic1b- 2k2
C4 ic1bo  ic1b- 33p
R9 ic1bo  ic2a+ 10

